US05859007
2-[3-(1-Acetyl-6-fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-fluoro-phenyl)-N-isopropyl-acetamide
300 mg (0.505 mmol) 2-[3-(6-Fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-fluoro-phenyl)-N-isopropyl-acetamide, prepared as in Example 63, is dissolved in 15 mL Acetic anhydride and heated at reflux 1 h. The solvent is removed in vacuo and the residue purified by preparative HPLC on a Delta-Pak C-18 column eluted from 35% to 60% CH3CN in H2O with 0.1% TFA buffer over 30 minutes at 150 mL/min. The appropriate fraction is frozen and lyophilized to give 144 mg (0.226 mmol) of the title compound as a white lyophilizate: 1H NMR (CDCl3, 300 MHz) δ8.04 (m, 1H), 7.76 (m, 1H), 7.50 (d, 1H, J=8.0), 7.39-7.08 (m, 12H), 6.98 (d, 1H, J=7.8), 5.02 (m, 1H), 4.32 (d, 1H, J=16.6), 4.30 (t, 1H), 4.10 (d, 1H, J=16.6), 3.75 (m, 1H), 3.57 (m, 1H), 2.63 (s, 3H), 1.08 (m, 6H); low resolution MS (FAB) m/e 636.1 (MH+); TLC Rf =0.30 (EtOAc/Hexanes, 1:2).

reactant | 2-[3-(6-Fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-fluoro-phenyl)-N-isopropyl-acetamide | 0.505 mmol, 300 mg | FC1=CC=C2C(=NNC2=C1)CC1C(N(C2=C(N(C1=O)CC(=O)N(C(C)C)C1=CC=C(C=C1)F)C=CC=C2)C2=CC=CC=C2)=O | C34H29F2N5O3
reactant | Acetic anhydride | 15 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[3-(1-Acetyl-6-fluoro-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-(4-fluoro-phenyl)-N-isopropyl-acetamide | 0.226 mmol, 144 mg | C(C)(=O)N1N=C(C2=CC=C(C=C12)F)CC1C(N(C2=C(N(C1=O)CC(=O)N(C(C)C)C1=CC=C(C=C1)F)C=CC=C2)C2=CC=CC=C2)=O | C36H31F2N5O4
